US09034899B2
To a mixture of 7-bromo-4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline (500 mg, 1.35 mmol) which was prepared following similar method described in Steps A to C of Example 1 starting from 2-bromo-1-(3,4-dichlorophenyl)ethanone and 1-(3-bromophenyl)-N-methylmethanamine, pyridin-2-ol (154 mg, 1.62 mmol), N,N′-dimethylethylene diamine (58 μl, 0.54 mmol), and potassium phosphate (572 mg, 2.69 mmol) in 1,4-dioxane (5 mL) was added copper(1) iodide (51 mg, 0.27 mmol). The mixture was degassed with argon and then heated to 110° C. for 17 hours. The reaction mixture was diluted with water (20 mL) and extracted with methylene chloride (2×25 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was partially purified by column chromatography (methylene chloride to 90:9:1 methylene chloride/methanol/ammonium hydroxide) to give 1-(4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)pyridin-2(1H)-one (37 mg, 7%): ESI MS m/z 385 [M+H]+.

reactant | 7-bromo-4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 1.35 mmol, 500 mg | BrC1=CC=C2C(CN(CC2=C1)C)C1=CC(=C(C=C1)Cl)Cl | C16H14BrCl2N
reactant | 2-bromo-1-(3,4-dichlorophenyl)ethanone | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 1-(3-bromophenyl)-N-methylmethanamine | BrC=1C=C(C=CC1)CNC | C8H10BrN
reactant | pyridin-2-ol | 1.62 mmol, 154 mg | N1=C(C=CC=C1)O | C5H5NO
reactant | N,N′-dimethylethylene diamine | 0.54 mmol, 58 μl | CNCCNC | C4H12N2
reactant | potassium phosphate | 2.69 mmol, 572 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | copper(1) iodide | 0.27 mmol, 51 mg | [Cu]I
product | 1-(4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)pyridin-2(1H)-one | 37 mg, 7% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)N1C(C=CC=C1)=O)C | C21H18Cl2N2O
